US04493843
A solution of 2-(n-dodecyl)indole-5-carboxylic acid (15.0 g) in n-butanol (100 ml) containing aqueous hydrochloric acid (10ml of strength 36.5% w/v) was heated on a steam bath for 8 hours. The solution was concentrated in vacuo to about one half of its volume, diethyl ether (300 ml) was added, and the solution was washed with water and was dried over magnesium sulphate. Evaporation of the solvent in vacuo gave a residue which was recrystallised from methanol to give n-butyl 2-(n-dodecyl)indole-5-carboxylate (9.6 g), in the form of an off-white powder, m.p. 74°-76° C.

reactant | 2-(n-dodecyl)indole-5-carboxylic acid | 15.0 g | C(CCCCCCCCCCC)C=1NC2=CC=C(C=C2C1)C(=O)O | C21H31NO2
reactant | hydrochloric acid | 10ml | Cl | ClH
solvent | n-butanol | 100 ml | C(CCC)O | C4H10O
product | n-butyl 2-(n-dodecyl)indole-5-carboxylate | 9.6 g | C(CCCCCCCCCCC)C=1NC2=CC=C(C=C2C1)C(=O)OCCCC | C25H39NO2
